2177-10-12 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-10-11**] 11:15 AM
 URINE CULTURE - At [**2177-10-11**] 11:15 AM
 EKG - At [**2177-10-11**] 11:35 AM
 MULTI LUMEN - START [**2177-10-11**] 03:12 PM
   - patient transferred hypotensive, unable to get RIJ in place, surgery
   put in a left SC
   - patient recieved 7L of fluids, did not need to be started on pressors
   - started vanc/zosyn due to concern for infection, WBC=28
   - MAPs in the 60's, with good UOP
   - HCT dropped, likely dilutional, will continue to trend, sent type and
   screen
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-11**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-12**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 99 (97 - 126) bpm
   BP: 92/57(65) {75/40(50) - 98/65(72)} mmHg
   RR: 12 (11 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  7,920 mL
                                                                    168 mL
   PO:
   TF:
   IVF:
                                                                  7,920 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                    676 mL
                                                                    515 mL
   Urine:
                                                                    676 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,244 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple.
   CARDIAC: Normal S1, S2. Tachycardic
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft, appropriately TTP, midline staples without drainage or
   erythema, RLQ bandage c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. spontaneously moves all 4 ext.
   Labs / Radiology
   137 K/uL
   9.1 g/dL
   119 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.4 mEq/L
   26 mg/dL
   111 mEq/L
   142 mEq/L
   27.1 %
   19.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
   WBC
   19.8
   Hct
   32.8
   29.5
   26.5
   27.1
   Plt
   137
   Cr
   1.7
   1.5
   TropT
   <0.01
   Glucose
   151
   119
   Other labs: PT / PTT / INR:16.6/34.7/1.5, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Microbiology:
   Blood Cultures: NGTD
   Urine Culture: negative
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will bolus for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition: NPO for now as per surgery, may need NGT placed for
   decompression from above
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now, but will discuss possible call out later
   today with surgery

2177-10-13 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - c/o abdominal pain (post-op) w coughing
   - consider peeling back vanc soon depending on clinical status
   - BP tolerating dilaudid PCA
   - bolus w LR to maintain CVP 8-10
   - PM lytes stable
   - renally dose meds
   - still not back down to baseline Cr
   - Vanc trough 7pm =
   - TTE for monday
   - started PPI, per [**Doctor First Name **] recs (IV b/c pt is [**Name (NI) 7950**]
   - [**Doctor First Name **] does not feel comfortable taking him yet, so will call out
   tomorrow
   - restarted ASA (approved by [**Doctor First Name 213**])
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-12**] 08:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-13**] 03:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-12**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-13**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 91 (91 - 106) bpm
   BP: 93/62(69) {80/41(53) - 106/71(78)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (4 - 11)mmHg
   Total In:
                                                                  1,950 mL
                                                                    166 mL
   PO:
   TF:
   IVF:
                                                                  1,950 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,353 mL
                                                                    220 mL
   Urine:
                                                                  1,353 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. EOMI. MMM. OP clear. Neck Supple.
   CARDIAC: Normal S1, S2. Tachycardic
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Soft, appropriately TTP, midline staples without drainage or
   erythema, RLQ bandage c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. spontaneously moves all 4 ext.
   Labs / Radiology
   88 K/uL
   7.9 g/dL
   93 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   13.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
                            [**2177-10-12**]  06:16 PM
                            [**2177-10-12**]  06:17 PM
                            [**2177-10-13**]  04:32 AM
   WBC
   19.8
   13.8
   Hct
   32.8
   29.5
   26.5
   27.1
   25.1
   23.9
   Plt
   137
   88
   Cr
   1.7
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   151
   119
   102
   93
   Other labs: PT / PTT / INR:14.6/33.5/1.3, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will bolus for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   .
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition: NPO for now as per surgery, may need NGT placed for
   decompression from above
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Emergency Contact: patient
s wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now, but will discuss possible call out later
   today with surgery

2177-10-13 13:04:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Good progress overnight.
   Up in chair this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   GI bleeding
   s/
   Morphine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-10-13**] 03:54 AM
   Vancomycin - [**2177-10-13**] 08:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-12**] 06:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-10-13**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 93 (91 - 103) bpm
   BP: 97/63(71) {84/51(60) - 115/82(89)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 9 (4 - 9)mmHg
   Total In:
                                                                  1,950 mL
                                                                    923 mL
   PO:
   TF:
   IVF:
                                                                  1,950 mL
                                                                    623 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,353 mL
                                                                    460 mL
   Urine:
                                                                  1,353 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    597 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   88 K/uL
   93 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   23 mg/dL
   111 mEq/L
   141 mEq/L
   23.9 %
   13.8 K/uL
        [image002.jpg]
                            [**2177-10-11**]  10:57 AM
                            [**2177-10-11**]  03:22 PM
                            [**2177-10-11**]  10:10 PM
                            [**2177-10-12**]  04:03 AM
                            [**2177-10-12**]  06:16 PM
                            [**2177-10-12**]  06:17 PM
                            [**2177-10-13**]  04:32 AM
   WBC
   19.8
   13.8
   Hct
   32.8
   29.5
   26.5
   27.1
   25.1
   23.9
   Plt
   137
   88
   Cr
   1.7
   1.5
   1.4
   1.3
   TropT
   <0.01
   Glucose
   151
   119
   102
   93
   Other labs: PT / PTT / INR:14.6/33.5/1.3, CK / CKMB /
   Troponin-T:80/3/<0.01, ALT / AST:[**7-3**], Alk Phos / T Bili:68/0.7,
   Albumin:2.3 g/dL, LDH:135 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   SHOCK
 likely hypovolemic +/- septic. Clinically improved with
   surgical treatment and antimicrobials.
   RENAL FAILURE
 hypovolemia.  Receiving repletion.
   HIT+ -- fondaparinux for prophylaxis
   65 y/o man with systolic heart failure (LVEF 30%), h/o stable
   ventricular tachycardia, h/o stomach cancer s/p gastrectomy,
   appendiceal cancer [**2174**] s/p appendectomy/partial colectomy/appendectomy
   presented for elective right flank wound debridement.  However given
   colocutaneous fistula and bowel involvement, he underwent exploratory
   Laprotomy, small bowel resection, fistulogram and revision of ileocolic
   anastomosis.
   .
   # Hypotension:  Most likely secondary hypovolumia given extensive
   surgical procedure with open abdomen, though with elevated white count
   will cover empirically for intra-abdominal infection
   - IVF boluses to keep CVP 9-11
   - Central line [**Last Name (un) **] place
   - continue antibiotic coverage with vanc/zosyn
   - hold hypertensive meds
   - continue current dilaudid rate as his pressure is tolerating this
   level of pain meds and his pain is currently well controlled
   .
   FLUIDS -- remains net volume depleted attributed to sepsis and
   intraoperative fluid loss.
   ANEMIA
 unclear etiology.  [**Month (only) 51**] be due to phlebotomy, but need to
   consider abdominal imaging (CT).  Doubt hemolysis.
   # ARF: Most likely prerenal/ATN due to hypotension.
   - patient aggressively hydrated yesterday with increase in UOP, has
   remained stable, will [**Month (only) **] for low CVP and low UOP
   - urine lytes with very low sodium suggesting prerenal cause
   - avoid nephrotoxins
   .
   # S/P Ex Lap:
   - Wound care as per primary surgical team-changed dressing today,
   midline staples are c/d/I without any erythema
   - NPO with bowel rest, all diet changes as per primary surgical team
   OPTIMZE PAIN MANAGEMENT --
   CHOLY-CUTANEOUS FISTULA
   # Chronic systolic and diastolic heart failure:
   - TTE to look for change in cardiac function with recent hypotension
   - CE
s negative
   - will f/u with surgery about possible reinitiation of aspirin
   .
   # H/o Vtach:  has been stable
   - monitor on tele and replete lytes prn
   .
   FEN:  NPO for now; replete lytes prn
   .
   PPX:
   -DVT ppx with fondaparinux given concern per HIT per surgical team
   -Pain management with dilaudid PCA, has used 9.25mg since [**10-11**] at
   10:30am
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-10-11**] 08:25 AM
   Multi Lumen - [**2177-10-11**] 03:12 PM
   18 Gauge - [**2177-10-11**] 08:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes